* File: /home/eng/s/sxv240035/cad/gf65/tutorial/DFF/hspice/dff.pex.sp.pex
* Created: Thu Dec  5 19:29:28 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%GND! 1 6 9 13 16 20 23 27 30 34 37 41 44 48 52 54 58 60 64 66 70
+ 76 77 79 80 82 84 86
c212 44 0 2.40528e-19
c213 9 0 1.28186e-19
r214 48 86 10
r215 46 70 0.0274036
r216 46 48 1.24025
r217 45 66 0.0256162
r218 44 70 0.0230663
r219 44 45 0.481871
r220 41 84 10
r221 39 66 0.0199415
r222 39 41 0.988031
r223 38 64 0.0256162
r224 37 66 0.0256162
r225 37 38 0.85299
r226 34 82 10
r227 32 64 0.0199415
r228 32 34 1.27413
r229 31 60 0.0256162
r230 30 64 0.0256162
r231 30 31 0.990393
r232 27 80 10
r233 25 60 0.0199415
r234 25 27 1.66096
r235 24 58 0.0256162
r236 23 60 0.0256162
r237 23 24 0.681218
r238 20 79 10
r239 18 58 0.0199415
r240 18 20 1.63483
r241 17 54 0.0256162
r242 16 58 0.0256162
r243 16 17 0.422609
r244 13 77 10
r245 11 54 0.0199415
r246 11 13 1.66096
r247 10 52 0.0256162
r248 9 54 0.0256162
r249 9 10 0.944017
r250 6 76 10
r251 4 52 0.0199415
r252 4 6 0.988031
r253 1 66 10
r254 1 60 30
r255 1 54 10
.ends

.subckt PM_DFF%A 2 4 7 9 11 14 23 25 28 30
c93 11 0 2.10781e-19
c94 9 0 1.53937e-19
c95 4 0 1.744e-19
r96 25 26 25
r97 23 25 0.365827
r98 20 28 30
r99 17 20 0.388606
r100 17 28 10
r101 14 17 1.53694
r102 14 30 10
r103 12 23 0.0479332
r104 12 14 0.539191
r105 7 26 33.0286
r106 4 11 36.8926
r107 3 9 26.6446
r108 3 4 108.936
r109 2 9 26.6446
r110 1 7 3.82708
r111 1 2 29.1041
.ends

.subckt PM_DFF%B 4 10 12 13 15 16 18 20 22 23 30 33 34 36 39 50 53 56 57 58
c163 53 0 2.06707e-19
c164 34 0 2.30783e-20
c165 16 0 1.25203e-19
r166 53 54 25
r167 49 53 1.29316
r168 49 50 25
r169 46 50 45.374
r170 45 46 25
r171 42 45 0.476076
r172 42 57 30
r173 39 42 0.501133
r174 39 57 10
r175 37 56 0.051564
r176 37 39 0.438491
r177 36 56 0.051564
r178 35 36 0.0874363
r179 33 35 0.0479332
r180 33 34 0.21674
r181 30 58 10
r182 28 34 0.0479332
r183 28 30 1.46605
r184 25 26 25
r185 23 56 0.0013251
r186 23 25 0.63918
r187 16 26 8.86949
r188 16 18 36.8926
r189 13 54 17.7381
r190 12 13 3.86121
r191 11 22 36.8926
r192 11 12 30.1289
r193 10 22 36.8926
r194 9 20 26.6446
r195 9 10 105.759
r196 4 26 5.07357
r197 3 15 26.6446
r198 3 4 85.3653
.ends

.subckt PM_DFF%!CLK 2 4 5 6 10 14 16 22 23 24 26 28 29 30 32 34 36 38 40 42 43
+ 46 50 54 56 61 62 63 64 68 72 75 81 82 93
c231 72 0 4.21843e-20
c232 43 0 7.09295e-20
c233 38 0 2.44302e-19
c234 36 0 2.44302e-19
c235 16 0 1.5806e-19
c236 14 0 1.5806e-19
r237 79 80 25
r238 75 76 25
r239 72 80 31.417
r240 71 75 1.29316
r241 71 72 25
r242 69 93 4.5213
r243 68 69 25
r244 66 68 0.241795
r245 65 68 0.464667
r246 63 66 0.0509397
r247 63 64 0.699686
r248 61 65 0.0509397
r249 61 62 0.519926
r250 59 81 30
r251 56 59 0.501133
r252 56 81 10
r253 54 79 0.0239666
r254 54 59 1.33427
r255 53 64 0.0479332
r256 53 56 0.438491
r257 50 82 10
r258 48 62 0.0479332
r259 48 50 0.437239
r260 45 46 25
r261 43 79 0.0239666
r262 43 45 0.611382
r263 30 76 42.983
r264 29 46 49.7668
r265 28 30 3.86121
r266 27 42 36.8926
r267 27 28 101.762
r268 26 42 36.8926
r269 25 26 32.7934
r270 23 25 3.46412
r271 23 24 20.4959
r272 22 24 3.46412
r273 21 40 26.6446
r274 21 22 66.6116
r275 16 38 36.8926
r276 15 93 2.8098
r277 15 16 34.843
r278 14 93 2.8098
r279 13 36 26.6446
r280 13 14 56.5686
r281 9 34 26.6446
r282 9 10 50.4198
r283 5 10 3.46533
r284 5 6 21.1966
r285 4 29 3.86121
r286 3 32 36.8926
r287 3 4 98.5851
r288 2 32 36.8926
r289 1 6 3.46533
r290 1 2 52.3669
.ends

.subckt PM_DFF%CLK 2 8 10 12 14 20 22 25 26 27 28 29 31 33 35 37 39 41 44 47 52
+ 55 60 63 68 74 77 80 81 93 96 98 99 103 106 108 110 111 141
c289 141 0 3.1612e-19
c290 98 0 2.22881e-19
c291 80 0 1.24371e-19
c292 55 0 3.63809e-20
c293 37 0 5.0999e-19
c294 35 0 3.15127e-19
c295 28 0 4.21843e-20
r296 138 141 5.59461
r297 106 141 25
r298 106 108 1.7
r299 102 103 25
r300 98 99 25
r301 96 98 0.344529
r302 93 94 25
r303 91 102 0.0239666
r304 91 93 0.647714
r305 89 110 30
r306 86 89 0.388606
r307 86 110 10
r308 83 86 1.94314
r309 83 111 10
r310 80 83 0.73049
r311 80 81 25
r312 78 96 0.0479332
r313 78 89 0.180702
r314 77 102 0.0239666
r315 77 80 0.22683
r316 74 75 25
r317 72 99 36.9143
r318 71 74 0.313208
r319 71 72 25
r320 67 71 0.871657
r321 67 68 25
r322 64 103 29.4286
r323 63 64 25
r324 59 63 0.354552
r325 59 60 25
r326 56 68 49.7668
r327 55 56 25
r328 51 55 0.455218
r329 51 52 25
r330 48 60 54.5714
r331 47 48 25
r332 43 47 0.46702
r333 43 44 25
r334 29 94 43.4278
r335 28 75 28.4144
r336 27 81 34.2857
r337 26 52 31.4726
r338 25 44 9.14286
r339 22 41 26.6446
r340 21 29 3.86121
r341 21 22 52.5719
r342 20 28 3.86121
r343 19 39 36.8926
r344 19 20 77.8843
r345 14 37 36.8926
r346 13 138 3.02272
r347 13 14 34.3306
r348 12 138 3.02272
r349 11 35 26.6446
r350 11 12 56.0562
r351 10 35 26.6446
r352 9 27 3.82708
r353 9 10 29.1041
r354 8 26 3.86121
r355 7 33 36.8926
r356 7 8 74.7074
r357 2 31 26.6446
r358 1 25 3.82708
r359 1 2 52.6744
.ends

.subckt PM_DFF%Q 3 6 8 14 17 20 22 23
c59 6 0 2.14633e-19
r60 17 20 1.7
r61 15 20 0.0495473
r62 14 20 0.105895
r63 11 22 30
r64 8 11 0.388606
r65 8 22 10
r66 6 15 0.0769726
r67 6 8 0.533362
r68 3 23 10
r69 1 14 0.0769726
r70 1 3 0.682003
.ends

.subckt PM_DFF%C 4 10 12 16 17 19 21 23 24 31 35 38 46 49 50 51 53 58
c132 58 0 1.02174e-19
c133 50 0 1.2912e-19
c134 24 0 6.05174e-20
c135 21 0 1.12342e-19
c136 19 0 3.6192e-19
c137 16 0 8.31117e-20
r138 47 58 4.5213
r139 46 47 25
r140 44 49 0.0013251
r141 44 46 0.831344
r142 41 51 30
r143 38 41 0.388606
r144 38 51 10
r145 36 50 0.051564
r146 36 38 0.342945
r147 35 50 0.051564
r148 34 49 0.051564
r149 34 35 0.17293
r150 31 53 10
r151 29 49 0.051564
r152 29 31 0.718921
r153 26 27 25
r154 24 50 0.0013251
r155 24 26 0.504059
r156 17 27 9.01951
r157 17 19 36.8926
r158 12 23 36.8926
r159 11 58 2.8098
r160 11 12 42.119
r161 10 58 2.8098
r162 9 21 26.6446
r163 9 10 49.2926
r164 4 27 5.07019
r165 3 16 26.6446
r166 3 4 81.881
.ends

.subckt PM_DFF%E 4 8 9 11 12 19 22 23 25 28 34 35 36
c81 22 0 1.02174e-19
c82 9 0 1.2912e-19
r83 31 35 30
r84 28 31 0.388606
r85 28 35 10
r86 26 34 0.051564
r87 26 28 0.342945
r88 25 34 0.051564
r89 24 25 0.775503
r90 22 24 0.0479332
r91 22 23 0.167101
r92 19 36 10
r93 17 23 0.0479332
r94 17 19 0.425611
r95 14 15 25
r96 12 34 0.0013251
r97 12 14 0.66336
r98 9 15 9.01951
r99 9 11 36.8926
r100 4 15 5.07019
r101 3 8 26.6446
r102 3 4 81.881
.ends

.subckt PM_DFF%VDD! 1 6 12 16 22 26 32 36 42 46 55 59 61 65 69 74 75 77 79 81
r237 50 81 30
r238 46 50 0.388606
r239 46 81 10
r240 44 69 0.0185406
r241 44 50 1.85294
r242 43 65 0.0268516
r243 42 69 0.0268516
r244 42 43 0.930904
r245 40 79 30
r246 36 40 0.388606
r247 36 79 10
r248 34 65 0.0185406
r249 34 40 2.49358
r250 33 61 0.0268516
r251 32 65 0.0268516
r252 32 33 1.18324
r253 30 77 30
r254 26 30 0.388606
r255 26 77 10
r256 24 61 0.0185406
r257 24 30 2.49358
r258 23 59 0.0268516
r259 22 61 0.0268516
r260 22 23 1.04341
r261 20 75 30
r262 16 20 0.388606
r263 16 75 10
r264 14 59 0.0185406
r265 14 20 1.8141
r266 13 55 0.0268516
r267 12 59 0.0268516
r268 12 13 0.848132
r269 10 74 30
r270 6 10 0.388606
r271 6 74 10
r272 4 55 0.0185406
r273 4 10 1.40675
r274 1 65 15
r275 1 61 30
r276 1 55 15
.ends

.subckt PM_DFF%D 4 6 9 10 12 14 17 19
c41 12 0 1.28186e-19
r42 17 22 25
r43 17 19 1.7
r44 9 22 4.17508
r45 9 10 0.786294
r46 6 14 36.8926
r47 5 10 5.07743
r48 5 6 37.5074
r49 4 10 5.07743
r50 3 12 26.6446
r51 3 4 56.0562
.ends

.subckt PM_DFF%R 4 6 8 12 14 15 16 17 18 20 22 24 26 29 32 37 40 41 48 53 56 61
+ 63
c161 61 0 1.48281e-19
c162 53 0 4.21843e-20
c163 37 0 1.13114e-19
c164 24 0 1.28186e-19
r165 61 66 25
r166 61 63 1.7
r167 56 57 25
r168 52 56 0.647714
r169 52 53 25
r170 49 53 24.4664
r171 48 49 25
r172 44 48 0.871657
r173 44 45 25
r174 41 45 39.9429
r175 40 41 25
r176 36 40 0.421498
r177 36 37 25
r178 33 37 43.3722
r179 32 33 25
r180 28 32 0.455218
r181 28 29 25
r182 18 57 18.3498
r183 17 29 7.17309
r184 15 66 4.17508
r185 15 16 0.786294
r186 14 18 3.86121
r187 13 26 36.8926
r188 13 14 125.64
r189 12 26 36.8926
r190 11 24 26.6446
r191 11 12 105.759
r192 8 17 3.86121
r193 7 22 36.8926
r194 7 8 50.8298
r195 6 22 36.8926
r196 5 16 5.07743
r197 5 6 37.5074
r198 4 16 5.07743
r199 3 20 26.6446
r200 3 4 56.0562
.ends

